datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCCc1nc(N)c2ncsc2[n:10]1.CN(C)C(O)[OH+:21][H:20]>>CCCCc1nc(N)c2ncsc2[n+:10]1[H:20].CN(C)C(O)[OH:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1ccc(C[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCO>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCO)[H:20] 10=20;20,21=21",
"Cc1cc(Br)cc(C)c1[N:10](C)C.NC(CC(N)=[N+:21](O)[H:20])=NO>>Cc1cc(Br)cc(C)c1[N+:10](C)(C)[H:20].NC(CC(N)=[N:21]O)=NO 10=20;20,21=21",
"CC(=O)Nc1ccc([S:21][H:20])cc1.CCCCCCCCCCCCCCCCCc1c2ccccc2[n:10]c2ccccc12>>CC(=O)Nc1ccc([S-:21])cc1.CCCCCCCCCCCCCCCCCc1c2ccccc2[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2:10].NS(=O)(=O)c1ccccc1[NH2+:21][H:20]>>C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2+:10][H:20].NS(=O)(=O)c1ccccc1[NH2:21] 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.Cn1c[n+:21]([H:20])c2cncnc21>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].Cn1c[n:21]c2cncnc21 10=20;20,21=21",
"N#Cc1cccc[n+:21]1[H:20].c1ccc(C(c2ccncc2)(c2ccncc2)[O-:10])nc1>>N#Cc1cccc[n:21]1.c1ccc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])nc1 10=20;20,21=21",
"NC(=O)c1ccc(N)cc1[O-:10].NC1=NS(=O)(=O)[N:21]([H:20])c2nc[nH]c21>>NC(=O)c1ccc(N)cc1[O:10][H:20].NC1=NS(=O)(=O)[N-:21]c2nc[nH]c21 10=20;20,21=21",
"C[N:10]1[C@@H]2CC[C@H]1C[C@H](O)C2.N#CC(C#N)=[N+:21](Nc1cccc(Cl)c1)[H:20]>>C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@H](O)C2.N#CC(C#N)=[N:21]Nc1cccc(Cl)c1 10=20;20,21=21",
"N[C@@H]1C[C@@H]1[NH2:10].O=C(/C=C/c1ccc(O)cc1)[O:21][H:20]>>N[C@@H]1C[C@@H]1[NH2+:10][H:20].O=C(/C=C/c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"CC(C)CS/C(c1ccccc1)=[NH+:21]\[H:20].Cc1nnn(CC(=O)[O-:10])n1>>CC(C)CSC(c1ccccc1)=[NH:21].Cc1nnn(CC(=O)[O:10][H:20])n1 10=20;20,21=21",
"C1C[N+:21](CC2CO2)([H:20])CCO1.O=[N+]([O-])c1ccccc1/C=N\[O-:10]>>C1C[N:21](CC2CO2)CCO1.O=[N+]([O-])c1ccccc1/C=N\[O:10][H:20] 10=20;20,21=21",
"Cc1cc2cccc(C)c2[n:10]c1C.NC(=O)CCC(N)C(=O)NCC(=O)[O:21][H:20]>>Cc1cc2cccc(C)c2[n+:10]([H:20])c1C.NC(=O)CCC(N)C(=O)NCC(=O)[O-:21] 10=20;20,21=21",
"CC[NH2+:21][H:20].C[N:10](C)Cc1ccc(NC(=O)/C=N/[O-])cc1>>CC[NH2:21].C[N+:10](C)(Cc1ccc(NC(=O)/C=N/[O-])cc1)[H:20] 10=20;20,21=21",
"CCCCOc1ccc(C(=O)[O-:10])cc1.Cc1nonc1[N:21](S(=O)(=O)c1ccc(N)cc1)[H:20]>>CCCCOc1ccc(C(=O)[O:10][H:20])cc1.Cc1nonc1[N-:21]S(=O)(=O)c1ccc(N)cc1 10=20;20,21=21",
"CC[N+:21](CC)(C(C)C(=O)Nc1c(C)cccc1C)[H:20].N[N-:10]C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F>>CC[N:21](CC)C(C)C(=O)Nc1c(C)cccc1C.N[N:10](C(=O)C1(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C1(F)F)[H:20] 10=20;20,21=21",
"C1C[N+:21](CC2CO2)([H:20])CCO1.c1cnc2c(c1)[nH]c[n:10]2>>C1C[N:21](CC2CO2)CCO1.c1cnc2c(c1)[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"O=Cc1ccc([O-:10])c(O)c1.c1ccc(CO[n+]2ccc([O:21][H:20])cc2)cc1>>O=Cc1ccc([O:10][H:20])c(O)c1.c1ccc(CO[n+]2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"CN(CCC[NH+](C)C)C(=O)/C=N/[O:21][H:20].c1cc([S-:10])c2cccnc2c1>>CN(CCC[NH+](C)C)C(=O)/C=N/[O-:21].c1cc([S:10][H:20])c2cccnc2c1 10=20;20,21=21",
"CCCC[NH:10]Cc1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](Cc1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"ClC(Cl)=CCC[NH2+:21][H:20].O=C1NC=C(SSC2=CNC(=O)[N-:10]C2=O)C(=O)N1>>ClC(Cl)=CCC[NH2:21].O=C1NC=C(SSC2=CNC(=O)[N:10]([H:20])C2=O)C(=O)N1 10=20;20,21=21",
"COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O-:10])c1.O=C(C(Cl)=NO)[O:21][H:20]>>COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O:10][H:20])c1.O=C(C(Cl)=NO)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1ccc(C(O)CCC[N:10]2CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.Cc1cccc([O:21][H:20])c1C>>CC(C)(C)c1ccc(C(O)CCC[N+:10]2([H:20])CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.Cc1cccc([O-:21])c1C 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)c1cccc(N)c1)[H:20].O=C(CNC(=O)C[NH2:10])NCC(=O)N1CCCC1C(=O)[O-]>>CC(C)[NH:21]CC(O)c1cccc(N)c1.O=C(CNC(=O)C[NH2+:10][H:20])NCC(=O)N1CCCC1C(=O)[O-] 10=20;20,21=21",
"Nc1ccccc1[NH2+:21][H:20].[NH3+]CCC(=O)NC(Cc1c[nH]c[n:10]1)C(=O)[O-]>>Nc1ccccc1[NH2:21].[NH3+]CCC(=O)NC(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"C[N+:21](C)(Cc1ccccc1O)[H:20].c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n:10]2)n1>>C[N:21](C)Cc1ccccc1O.c1c[nH]c(P(c2[nH]cc[nH+]2)c2[nH]cc[n+:10]2[H:20])n1 10=20;20,21=21",
"COC(=O)C1CSC[NH:10]1.O=C([O-])CC(c1ccccn1)[NH2+:21][H:20]>>COC(=O)C1CSC[NH+:10]1[H:20].O=C([O-])CC(c1ccccn1)[NH2:21] 10=20;20,21=21",
"CN1C2=C(CCCC2)S/C1=[N:10]/N.O=C(CCl)[O:21][H:20]>>CN1C2=C(CCCC2)S/C1=[N+:10](/N)[H:20].O=C(CCl)[O-:21] 10=20;20,21=21",
"CC(CN1c2ccccc2Sc2ccccc21)[N:10](C)C.O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2ccccc2s1>>CC(CN1c2ccccc2Sc2ccccc21)[N+:10](C)(C)[H:20].O=C1Oc2cc([O-:21])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"C[NH:10]CCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCNCC[NH:10]CCC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCNCC[NH+:10](CCC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
